datasets/10k__Tet_Int.csv
SMILES Labelled
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(C)C(C)=C(C)C(C)[NH+:10]1(C)>>[NH:10](C)C(C)/C(C)=C(C)\C(C)[C:20](OC)=[O:21] 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C8=CC=CC=C8)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C8=CC=CC=C8)[S]C7=CC=CC=C7 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C([H])[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C([H])[CH]([H])[NH]1 10=20;20,21=21"
"[H][S+:10](C(C)C(C)[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C)C(C)[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].CC[NH+:21]=[C:20]([O][H])[NH]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]CC)([O][H])[NH]CC 10=20;20,21=21"
"[H][NH:10]C([H])C([H])C(CC)[O][C:20]([NH]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21]C)[NH]CC 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21][H])[NH]C(CC)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH]C(CC)C(C8=CC=CC=C8)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[O:10]([Na])C(CCC)/C(C)=C(C)\C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C(C)=C(C)C(CCC)[O+:10]1([Na]) 10=20;20,21=21"
"[O-:21][C:20]1(OC)C([H])C(C)=C(C)C(C)[NH+:10]1(C)>>[NH:10](C)C(C)/C(C)=C(C)\C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[O]C(C7=CC=CC=C7)C(C)[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(CC)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)[H])[H]>>CN([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)[H])[O-:10])[H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
"C[NH+:10]([H])[C:20]([NH:21]CC)([NH]CC)[O]C.[Cl-]>>[Cl-].C[NH:10][H].CC[NH+:21]=[C:20]([NH]CC)[O]C 21=20;20,10=10"
"[H][NH:10]C(C)C([H])C(CC)[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"[O-:21][C:20]1([H])C([H])=C(C)C(C)C(CCC)[O+:10]1([Na])>>[O:10]([Na])C(CCC)C(C)/C(C)=C([H])\[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[S][C:20]([S]C)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[S]1)[C:20]1([O:21][H])[S]C 10=20;20,21=21"
"[O-:21][C:20]1([H])C(O)C(O)C(C)C(C)[NH+:10]1([H])>>[NH:10]([H])C(C)C(C)C(O)C(O)[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][NH+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"[H][S:10]C(C)C([H])C([H])[S][C:20]([S]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])C([H])[S]1)[C:20]1([O:21][H])[S]CC 10=20;20,21=21"
"CC1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)C>>CC1C(O[C:20](=[O:10])N1C1=CC=CC=C1)C.[O-:21]C 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C([O-:21])CCCCCC)CC)[H]>>CCN([C:20]1(OC(C([O:21]1)CCCCCC)CC)[O-:10])[H] 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])C)CC>>CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])C)[O-:10])CC 21=20;20,10=10"
"[H][O+:10](C([H])C(CC)[S]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(CC)[S][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)CC)CC>>[H]C1C(C(O[C:20](=[O:10])N1CC)CC)CC.[O-:21]CC 10=20;20,21=21"
"[H][O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]CC)[O]C.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]CC)[O]C 10=20;20,21=21"
"[H][S+:10]([H])[C:20]([O:21]C)([O]C8=CC=CC=C8)[S]C.[Cl-]>>[Cl-].[H][S:10][H].C[O+:21]=[C:20]([O]C8=CC=CC=C8)[S]C 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.[H][NH:10][H] 21=20;20,10=10"
"[O:10]([Na])C([H])/C([H])=C([C:20](C)=[O:21])/[H]>>[O-:21][C:20]1(C)[O+:10]([Na])C([H])C([H])=C1[H] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C[O+:10]([Li])[C:21]([O-:20])(O[H])OCCCCCC>>[O:20]=[C:21](O[H])OCCCCCC.C[O:10][Li] 20=21;21,10=10"
"[CH2:20]([O:10]CCCCCC)[Cl:21]>>[CH2:20]=[O+:10]CCCCCC.[Cl-:21] 10=20;20,21=21"
"[O-:21][C:20]1([H])C([H])C(C)=C([H])C(CC)[O+:10]1([K])>>[O:10]([K])C(CC)/C([H])=C(C)\C([H])[C:20]([H])=[O:21] 21=20;20,10=10"
